US08729271B2
6-Bromo-5-fluoropyridine-2-carbaldehyde
Manganese dioxide (695 mg) was added to a solution of (6-bromo-5-fluoropyridin-2-yl)methanol (200 mg) in chloroform (3.00 mL) and the mixture was stirred while heating at 70° C. for 12 hr. After stirring at room temperature for 13 hr, the reaction mixture was filtered through Celite. The solvent was distilled off under reduced pressure, and the resulting residue was purified by column chromatography (silica gel cartridge, hexane:ethyl acetate=98:2-82:18) to afford the title compound (81 mg).

reactant | (6-bromo-5-fluoropyridin-2-yl)methanol | 200 mg | BrC1=C(C=CC(=N1)CO)F | C6H5BrFNO
solvent | chloroform | 3.00 mL | C(Cl)(Cl)Cl | CHCl3
catalyst | Manganese dioxide | 695 mg | [O-2].[O-2].[Mn+4]
product | 6-Bromo-5-fluoropyridine-2-carbaldehyde | 81 mg | BrC1=C(C=CC(=N1)C=O)F | C6H3BrFNO
